US06326369B1
8-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)octyl N-ethylcarbamate
To a solution of 8-(4,5,6,7-tetramethoxyindan-2-yl)octyl N-ethylcarbamate (1.22 g) in acetonitrile (12 ml) was dropwise added a solution of CAN (3.83 g) in water (12 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=4:1) and then with recrystallization from hexane-ethyl acetate to yield the entitled compound (630 mg) as crystals.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octyl N-ethylcarbamate | 1.22 g | C(C)NC(OCCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)=O | C24H39NO6
reactant | CAN | 3.83 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | water | 12 ml | O | H2O
product | 8-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)octyl N-ethylcarbamate | 630 mg | C(C)NC(OCCCCCCCCC1CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)=O | C22H33NO6
